US06313122B1
A. 2-Nitro-N-(3-fluorophenyl)benzamide
Using the procedure described in Example 93, Part A, 3-fluoroaniline (15.6 mmol) and 2-nitrobenzoyl chloride (17.2 mmol) yielded 3.09 g (76%) of the title compound.

reactant | 3-fluoroaniline | 15.6 mmol | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 2-nitrobenzoyl chloride | 17.2 mmol | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | 2-Nitro-N-(3-fluorophenyl)benzamide | 3.09 g, 76% | [N+](=O)([O-])C1=C(C(=O)NC2=CC(=CC=C2)F)C=CC=C1 | C13H9FN2O3
